US03962443
5,8-Dihydro-2-(4-methyl-1-piperazinyl)-8-vinyl-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid (compound 52)
A solution of 8-(2-chloroethyl)-5,8 -dihydro-2-(4-methyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid (1.0 g) in 20 ml of a 10% aqueous solution of sodium hydroxide was heated at 95°C for three hours. The reaction mixture was then neutralized with hydrochloric acid under ice-cooling and chilled. The resulting precipitate was collected to give 0.63 g of the product. Recrystallization from a mixture of chloroform and ethanol gave the product as pure state.

reactant | 8-(2-chloroethyl)-5,8 -dihydro-2-(4-methyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid | 1.0 g | ClCCN1C=C(C(C2=C1N=C(N=C2)N2CCN(CC2)C)=O)C(=O)O | C15H18ClN5O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 5,8-Dihydro-2-(4-methyl-1-piperazinyl)-8-vinyl-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid | 0.63 g | CN1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)C=C | C15H17N5O3
